US04033977
A mixture of 4-[2-(p-toluenesulfonyloxy)ethyl]-6,7-dihydro-4-methyl-2-phenyl-4H-pyrano[4,3-d]thiazole (16 g, 37.2 mmoles, described above), and lithium bromide (16 g) in dry acetone (100 ml) is heated at reflux temperature for two hr. The solvent is removed under reduced pressure, water is added and the aqueous solution is extracted with ether. The ether solution is washed with water, dried over sodium sulfate, treated with charcoal and evaporated under reduced pressure to give 4-(2-bromoethyl)-6,7-dihydro-4-methyl-2-phenyl-4H-pyrano[4,3-d]thiazole, γmaxCHCl3 1545, 1500, 1465 and 1090 cm-1.

reactant | 4-[2-(p-toluenesulfonyloxy)ethyl]-6,7-dihydro-4-methyl-2-phenyl-4H-pyrano[4,3-d]thiazole | 37.2 mmoles, 16 g | C1(=CC=C(C=C1)S(=O)(=O)OCCC1(OCCC=2N=C(SC21)C2=CC=CC=C2)C)C | C22H23NO4S2
reactant | lithium bromide | 16 g | [Br-].[Li+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-(2-bromoethyl)-6,7-dihydro-4-methyl-2-phenyl-4H-pyrano[4,3-d]thiazole | BrCCC1(OCCC=2N=C(SC21)C2=CC=CC=C2)C | C15H16BrNOS
